US07932271B2
[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]amine
To an ethanol (5 ml) solution of t-butyl[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]carbamate (170 mg, 0.331 mmol) was added concentrated hydrochloric acid (5 ml). The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. To the residue thus obtained was added a saturated aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was recrystallized from hexane:ethyl acetate to give the title compound (110 mg, 0.266 mmol, 81%) as a pale violet powder.

reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | t-butyl[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]carbamate | 0.331 mmol, 170 mg | C(C)(C)(C)OC(NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)F)=O | C23H20ClF3N2O4S
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]amine | 0.266 mmol, 110 mg, 81% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1F)N)C1=C(C=CC(=C1)F)F | C18H12ClF3N2O2S
